US05484685
In an atmosphere of nitrogen, 30.0 g (0.11 mole) of 6-n-butylthio-2,3-dicyanonaphthalene was added to a solution of sodium methoxide in methanol prepared by adding 1.46 g (64 mmoles) of metallic sodium in 5 portions to 350 ml of anhydrous methanol. While thoroughly stirring the mixture, anhydrous ammonia gas was slowly bubbled at room temperature over a period of about one hour. Then, the mixture was refluxed for about 3 hours, while bubbling anhydrous ammonia gas. After cooling, the yellow solid precipitated was filtered and the residue was thoroughly washed with methanol and dried under reduced pressure to obtain 30 g of 6-n-butylthio-1,3-diiminobenz[f]isoindoline as a yellow solid. FIG. 6 illustrates its IR spectrum. Without further purification, it was used in the subsequent reaction.

reactant | 6-n-butylthio-2,3-dicyanonaphthalene | 0.11 mole, 30.0 g | C(CCC)SC=1C=C2C=C(C(=CC2=CC1)C#N)C#N | C16H14N2S
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 64 mmoles, 1.46 g | [Na] | Na
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
solvent | methanol | 350 ml | CO | CH4O
product | 6-n-butylthio-1,3-diiminobenz[f]isoindoline | 30 g | C(CCC)SC1=CC=2C(=CC=3C(NC(C3C2)=N)=N)C=C1 | C16H17N3S
